US07378418B2
250b. Preparation of 2-(4-(Isoxazol-5-yl)benzyl)-7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
A solution of 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (3.0 g, 9.27 mmol), prepared as described in Example 244, K2CO3 (2.56 g, 18.53 mmol) and 5-(4-(bromomethyl)phenyl)isoxazole (2.65 g, 11.12 mmol), in DMF (23 mL), were added. The resulting mixture was heated to 60° C. After 2 h, the reaction mixture was cooled to RT and partitioned between water and EtOAc. The organic layer was separated and the aqueous layer was extracted with EtOAc (2×200 mL). The combined organic extracts were dried over magnesium sulfate, filtered and concentrated. The residue was purified by silica gel column chromatography using hexanes/EtOAc 1:10 to give the title compound, 2-(4-(isoxazol-5-yl)benzyl)-7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, as a light yellow solid. HPLC RT: 2.64 min; MS, M+H=481; 1H NMR (CDCl3): δ 8.62-8.64 (m, 2H), 8.29 (d, J=1.8 Hz, 1H), 8.20 (s, 1H), 7.77 (d, J=8.4 Hz, 2H), 7.51 (d, J=8.4 Hz, 2H), 7.33 (d, J=8.4 Hz, 2H), 7.22 (m, 2H), 7.09 (d, J=8.4 Hz, 2H), 6.51 (d, J=1.6 Hz, 1H), 5.25 (s, 2H).

reactant | 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 9.27 mmol, 3.0 g | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=NC=C2 | C16H10ClN5O
reactant | K2CO3 | 18.53 mmol, 2.56 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-(4-(bromomethyl)phenyl)isoxazole | 11.12 mmol, 2.65 g | BrCC1=CC=C(C=C1)C1=CC=NO1 | C10H8BrNO
solvent | DMF | 23 mL | CN(C)C=O | C3H7NO
product | 2-(4-(isoxazol-5-yl)benzyl)-7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | O1N=CC=C1C1=CC=C(CN2N=C3N(N=CC(=C3C3=CC=NC=C3)C3=CC=C(C=C3)Cl)C2=O)C=C1 | C26H17ClN6O2
